US07176322B2
5-Cyano-1-ethylcyclopent[b]indole
A solution of 7-cyano-1,2,3,4-tetrahydrocyclopent[b]indole (0.224 g, 1.23 mmol) in anhydrous DMF (15 mL) was cooled to 0° C. and sodium hydride (60% dispersion in mineral oil, 74 mg, 3.07 mmol) was added. The reaction was stirred for 45 minutes then ethyl iodide (0.171 g, 1.47 mmol) was added and the reaction was allowed to warm to room temperature. The mixture was stirred for 15 hours then water was added. The product precipitated and was collected by filtration, washing with little water, brine and dichloromethane to give 0.287 g of title compound.

reactant | 7-cyano-1,2,3,4-tetrahydrocyclopent[b]indole | 1.23 mmol, 0.224 g | C(#N)C1=CC=2C3=C(NC2C=C1)CCC3 | C12H10N2
reactant | sodium hydride | 3.07 mmol, 74 mg | [H-].[Na+]
reactant | ethyl iodide | 1.47 mmol, 0.171 g | C(C)I | C2H5I
reactant | water | O | H2O
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-Cyano-1-ethylcyclopent[b]indole | 0.287 g | C(#N)C1=CC=CC2=C3C(N=C12)=CC=C3CC | C14H10N2
